US04267337
By the same procedure, using methylene in place of dimethylamine, 4-(N-methylaminomethyl)-5-methylimidazole is prepared. In the same way, using butylamine and dibutylamine, 4-(N-butylaminomethyl)-5-methylimidazole and 4-(N,N-dibutylaminomethyl)-5-methylimidazole are prepared. Refluxing these intermediates with cysteamine by the above procedure and treating with hydrochloric acid gives 4-(2-aminoethyl)thiomethyl-5-methylimidazole dihydrochloride.

reactant | 4-(N-methylaminomethyl)-5-methylimidazole | CNCC=1N=CNC1C | C6H11N3
reactant | butylamine | C(CCC)N | C4H11N
reactant | dibutylamine | C(CCC)NCCCC | C8H19N
reactant | 4-(N-butylaminomethyl)-5-methylimidazole | C(CCC)NCC=1N=CNC1C | C9H17N3
reactant | 4-(N,N-dibutylaminomethyl)-5-methylimidazole | C(CCC)N(CCCC)CC=1N=CNC1C | C13H25N3
reactant | cysteamine | NCCS | C2H7NS
reactant | hydrochloric acid | Cl | ClH
product | 4-(2-aminoethyl)thiomethyl-5-methylimidazole dihydrochloride | Cl.Cl.NCCSCC=1N=CNC1C | InChI=1S/C7H13N3S.2ClH/c1-6-7(10-5-9-6)4-11-3-2-8;;/h5H,2-4,8H2,1H3,(H,9,10);2*1H
